US04752645
(D) (cis)-1,3,4,5-Tetrahydro-4-(4-methoxyphenyl)-3-(2-propenyl)-2H-1-benzazepin-2-one
A solution of 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-3-(2-propenyl)-2H-1-benzazepin-2-one (4.56 g, 12.48 mmol), lithium bromide (6.18 g, 71.13 mmol) and α-aminothiophenol (3.12 g, 24.96 mmol) in 38 ml of dry dimethylformamide was heated to 137° C. (oil bath temperature) under argon for 51/2 hours. The reaction mixture was cooled to room temperature and diluted with water (250 ml total volume). The precipitate was collected by filtration, rinsed with 1M hydrochloric acid, saturated aqueous potassium carbonate solution, water, and dried in vacuo with phosphorous pentoxide to give 3.5 g of a white solid. Recrystallization from methanol (3 crops) yielded 3.03 g of white needles, melting point 169°-171° C.

reactant | 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-3-(2-propenyl)-2H-1-benzazepin-2-one | 12.48 mmol, 4.56 g | COC(=O)C1(C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O)CC=C | C22H23NO4
reactant | lithium bromide | 71.13 mmol, 6.18 g | [Br-].[Li+]
solvent | dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | (cis)-1,3,4,5-Tetrahydro-4-(4-methoxyphenyl)-3-(2-propenyl)-2H-1-benzazepin-2-one | 3.5 g | COC1=CC=C(C=C1)[C@@H]1[C@@H](C(NC2=C(C1)C=CC=C2)=O)CC=C | C20H21NO2
